### PR TITLE
minor additions and generalizations

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

The lemmas proposed by this PR are slight generalizations (e.g., parameters of `derivable_cst`, `derive_cst` that generalized `derive1_cst`) or lemmas that are specialized variants of
already existing lemmas (e.g., `deriveX_id`, `deriveMr`, `derive_id`). Specialized variants might
look superfluous at first sight but they do save several micro steps in practical examples and
moreover since we have a naming convention (this PR documents it) for the file `derive.v`
these variants are expected results of `Search`. Certainly, there is more to do in this file but
that might already be a useful step.

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: theories/derive.v [hunk 1]
```diff
@@ -1259,6 +1299,20 @@ move=> df dg; apply/cvg_ex; exists (f x *: 'D_v g x + g x *: 'D_v f x).
 exact: der_mult.
 Qed.
 
+Lemma deriveMr f (r : R) (x v : V) :
+  derivable f x v -> 'D_v (fun x => f x * r) x = (r * 'D_v f x)%R.
```
Comment (proux01) [inline theories/derive.v:1303]: Don't we have a notation for that? something like `r \o* f`?

File: theories/derive.v [hunk 2]
```diff
@@ -1259,6 +1299,20 @@ move=> df dg; apply/cvg_ex; exists (f x *: 'D_v g x + g x *: 'D_v f x).
...
+Proof.
+move/deriveM => /(_ _ (derivable_cst _ _ _)) ->.
+by rewrite derive_cst scaler0 add0r.
+Qed.
+
+Lemma deriveMl f (r : R) (x v : V) :
+  derivable f x v -> 'D_v (fun x => r * f x) x = (r * 'D_v f x)%R.
```
Comment (proux01) [inline theories/derive.v:1310]: Maybe
```suggestion
  derivable f x v -> 'D_v (r \*o f) x = (r * 'D_v f x)%R.
```

**Review by proux01 — APPROVED** [review]

**Comment by affeldt-aist** [comment]
Thanks, I totally forgot about this notation.

File: theories/derive.v [hunk 3]
```diff
@@ -1323,11 +1377,22 @@ move=> df dg; apply/cvg_ex; exists (- (f x) ^- 2 *: 'D_v f x).
...
-Lemma derive1_cst (k : V) t : (cst k)^`() t = 0.
-Proof. by rewrite derive1E derive_val. Qed.
-
 End Derive_lemmasVR.
 
+Lemma derive1_cst {R : numFieldType} (k : R) t : (cst k)^`() t = 0.
+Proof. by rewrite derive1E derive_cst. Qed.
+
+Lemma deriveX_id {R : numFieldType} n x v :
+  'D_v (@GRing.exp R ^~ n.+1) x = n.+1%:R *: x ^+ n *: v.
```
Comment (CohenCyril) [inline theories/derive.v:1386]: Why suffix `_id`?

Comment (affeldt-aist) [reply theories/derive.v:1383]: As a special case of:
```coq
Lemma deriveX f n (x v : V) : derivable f x v ->
  'D_v (f ^+ n.+1) x = (n.+1%:R * f x ^+ n) *: 'D_v f x.
```

Comment (CohenCyril) [reply theories/derive.v:1383]: https://github.com/math-comp/analysis/blob/5517979929715629bdc5748fdb39ed1083cfab41/theories/normedtype.v#L2460-L2461

Comment (CohenCyril) [reply theories/derive.v:1383]: This reminds me of `mul_continuous` and `cvgM` (and `continuousM`).
In face these are all equivalent and the bridge is composition.
We should come up with a consistent naming scheme if we are going that way and I do not think `id` is very informative here...

Comment (affeldt-aist) [reply theories/derive.v:1383]: In `lebesgue_measure.v`, we did that:
```coq
Lemma measurable_exprn D n : measurable_fun D (fun x => x ^+ n).
(* coming first *)

Lemma measurable_fun_pow D f n : measurable_fun D f ->
  measurable_fun D (fun x => f x ^+ n).
(* proved using measurable_comp *)
```

Comment (CohenCyril) [reply theories/derive.v:1383]: Oh, this is bad... the head symbol's name is `exp` in both case and `pow` is now booked for the power function `R -> R -> R` (which in fairness should probably swapped, but that's a completely different question).
Anyway we should not solve the problem by introducing duplicate names for existing symbols (let's not have `prod` as an alternative for `mul` nor `plus` as an alternative for `add` :wink:), but by finding a uniform naming scheme which encompasses all the cases for continuity, measurability and various notions of derivability.

My suggestion is we align with the conventions for continuity with the following rationale:
- when a lemma is about a composite, like the current `cvgM`, `continuousM`, `deriveX` or `measurable_fun_pow`, we use the single letter suffix (when it exists) as in `cvgM`, `continuousM`, `deriveX`, or `measurableX`
- when a lemma is about applied function, we use the multi-letter prefix instead as in `mul_continuous`, `exp_derive` or `exp_measurable`.

Comment (affeldt-aist) [reply theories/derive.v:1383]: Note however that we already have:
```coq
Lemma measurableX d1 d2 (T1 : semiRingOfSetsType d1) (T2 : semiRingOfSetsType d2)
    (A : set T1) (B : set T2) :
  measurable A -> measurable B -> measurable (A `*` B).
```

Comment (affeldt-aist) [reply theories/derive.v:1383]: so, maybe, `measurable_funX` to avoid the conflict?

Comment (CohenCyril) [reply theories/derive.v:1383]: > so, maybe, `measurable_funX` to avoid the conflict?

Not to avoid the confict, because that's the actual prefix and I did made a mistake (fixed)

Comment (affeldt-aist) [reply theories/derive.v:1383]: I think that we chose to use `measurable` instead of `measurable_fun` when the suffix suggests a function.

Comment (affeldt-aist) [reply theories/derive.v:1383]: I guess this shortcut is only acceptable when it does not cause ambiguity, I'll try your proposal fixes asap.

Comment (CohenCyril) [reply theories/derive.v:1383]: when the prefix is a function name I guess it makes sense indeed

Comment (affeldt-aist) [reply theories/derive.v:1383]: So maybe use `X` for the cardinal product and `Xn` for `GRing.exp`?

Comment (affeldt-aist) [reply theories/derive.v]: (well `funX` is clear enough maybe)

**Comment by affeldt-aist** [comment]
@CohenCyril ok to merge in the current state?

File: classical/functions.v [hunk 4]
```diff
@@ -2617,6 +2617,14 @@ Lemma fct_sumE (I T : Type) (M : zmodType) r (P : {pred I}) (f : I -> T -> M)
   (\sum_(i <- r | P i) f i) x = \sum_(i <- r | P i) f i x.
 Proof. by elim/big_rec2: _ => //= i y ? Pi <-. Qed.
 
+Lemma mull_funE (T : Type) {R : comSemiRingType} (f : T -> R) (r : R) :
+  r \*o f = r \o* f.
+Proof. by apply/funext => x/=; rewrite mulrC. Qed.
+
+Lemma mulr_funE (T : Type) {R : comSemiRingType} (f : T -> R) (r : R) :
+  r \o* f = r \*o f.
+Proof. by rewrite mull_funE. Qed.
```
Comment (CohenCyril) [inline classical/functions.v:2626]: This is no "elimination" (/definition) lemma (as suggested by suffix `E`), this is a property of symetric bimodules (which function spaces with values in a commutative module R). I would name this `mul_funC`, and keep only one of them.

**Review by CohenCyril — CHANGES_REQUESTED** [review]
Aside from my (minor) comment. LGTM
